US07217409B2
(a) 2-[2-(2-Methoxyethoxy)ethoxy]ethyl 4-methylbenzenesulfonate
A solution of triethylene glycol monomethyl ether (300 g) in tetrahydrofuran (550 mL) was added dropwise over 105 minutes to a stirred aqueous sodium hydroxide solution (2M, 1.28 L) at 0–5° C. A solution of p toluenesulphonyl chloride (383 g) in tetrahydrofuran (600 mL) was then added to the reaction mixture over 150 minutes, maintaining the temperature at 0–9° C. The reaction mixture was stirred at 0–5° C. for a further 2 hours and then allowed to warm to 20° C. and stirred for 16 hours. Additional aqueous sodium hydroxide solution (2M, 90 mL) was then added slowly to the reaction mixture and stirring was continued for a further 1 hour. Water (1 L) was added to the reaction mixture which was then extracted with toluene (2×1.8 L). The combined organic extracts were washed with water (3×1.8 L) and then concentrated in vacuo to give the title compound as a colourless oil (448 g). GC retention time 11.2 mins

reactant | triethylene glycol monomethyl ether | 300 g | COCCOCCOCCO | C7H16O4
reactant | sodium hydroxide | 2M, 1.28 L | [OH-].[Na+]
reactant | toluenesulphonyl chloride | 383 g | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sodium hydroxide | 2M, 90 mL | [OH-].[Na+]
reactant | Water | 1 L | O | H2O
reactant | tetrahydrofuran | 550 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 600 mL | O1CCCC1 | C4H8O
product | 2-[2-(2-Methoxyethoxy)ethoxy]ethyl 4-methylbenzenesulfonate | 448 g | CC1=CC=C(C=C1)S(=O)(=O)OCCOCCOCCOC | C14H22O6S
